2190-07-05 09:37:00 Physician Attending Progress Note
Chief Complaint: Confusion, nausea, vomiting
   I saw and examined the patient, and was physically present with the ICU
   Fellow for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   W/u for infection vs toxic metabolic vs hypertensive urgency
   24 Hour Events:
   LP: opening pr 20, WBC 2
   Hypertensive and tachycardic: concern about alcohol abuse and marijuana
   use. Calmed down with ativan and haldol for agitation. Hydralazine.
   Acidosis improved with insulin drip (starvation vs diabetic)
   Electrolytes repleted
   Abx: Vanc, Gent, Acyclovir, Fluconazole
   History obtained from Patient
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2190-7-4**] 11:30 PM
   Fluconazole - [**2190-7-5**] 02:00 AM
   Vancomycin - [**2190-7-5**] 06:00 AM
   Acyclovir - [**2190-7-5**] 06:00 AM
   Infusions:
   Insulin - Regular - 11 units/hour
   Other ICU medications:
   Insulin - Regular - [**2190-7-4**] 11:15 PM
   Haloperidol (Haldol) - [**2190-7-4**] 11:43 PM
   Metoprolol - [**2190-7-5**] 12:30 AM
   Hydralazine - [**2190-7-5**] 06:00 AM
   Lorazepam (Ativan) - [**2190-7-5**] 08:34 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-5**] 09:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.7
C (99.8
   Tcurrent: 37.2
C (99
   HR: 92 (80 - 130) bpm
   BP: 190/77(106) {176/54(92) - 199/141(151)} mmHg
   RR: 26 (20 - 34) insp/min
   SpO2: 96%
             Total In:
                                                                  1,150 mL
                                                                  2,500 mL
   PO:
             TF:
   IVF:
                                                                    150 mL
                                                                  2,420 mL
   Blood products:
   Total out:
                                                                    840 mL
                                                                    645 mL
   Urine:
                                                                    100 mL
                                                                    645 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    310 mL
                                                                  1,855 mL
   Respiratory support
   SpO2: 96%
   ABG: 7.32/28/ -> 7.38/32/52 (venous)
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Resonant : ),
   (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Lateral knee with mild fluctuance
   Skin:  Not assessed
   Neurologic: Patient responds to verbal questions, not oriented, PEERL,
   moving all extremities
   Labs / Radiology
   11.4 g/dL
   362 K/uL
   194 mg/dL
   1.0 mg/dL
   19 mEq/L
   3.5 mEq/L
   15 mg/dL
   111 mEq/L
   143 mEq/L
   33.6 %
   13.1 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
   WBC
   13.1
   Hct
   33.6
   Plt
   362
   Cr
   1.0
   Glucose
   194
   Other labs: PT / PTT / INR:12.5/20.6/1.1, Lactic Acid:1.4, Ca++:9.1
   mg/dL, Mg++:2.3 mg/dL, PO4:0.8 mg/dL
   Fluid analysis / Other labs: Agap 22 -> 13
   Tox: benzos
   UA: ketones
   Osm: 315, gap 10
   TSH normal
   Imaging: CXR: wnl
   Ct head: report pending: stroke vs infection vs encephalitis
   Microbiology: Blood and urine cxs and LP cxs pend
   Assessment and Plan
 DIABETIC KETOACIDOSIS (DKA)
 HYPERTENSION, BENIGN
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   47 yo female admitted with altered mental status in the setting of
   recent fungal septic arthritis.
   DD: seizures, hypertensive urgency/emergency, meningitis, encephalitis,
   stroke, substance abuse withdrawal, toxic metabolic due to acidosis
   Neuro: Appreciate neuro input. LP results and cultures pend. EEG and
   MRI/MRA pend. On meningitis antibiotic coverage. Conitnue ativan per
   CIWA and haldol for agitation. On thiamine/Folate/Ativan. TTE to r/o
   endocarditis.
   Septic knee: TTE to r/o endocarditis. Ophthal eval if hasnt had one.
   Inform ID and ortho. On fluconazole
   Acidosis: Likely DKA/starvation ketosis with + ketones on UA. On
   insulin gtt, gap closed, will transition back to lantus, supplement
   electrolytes (K and phos)
   HTN: Rx with beta blocker and iv hydral
   ICU Care
   Nutrition: npo
move to po intake when able, has NGT for feeds
   Glycemic Control: insulin drip, transition to lantus
   Lines / Intubation:
   18 Gauge - [**2190-7-4**] 11:53 PM
   22 Gauge - [**2190-7-4**] 11:55 PM
   Comments:
   Prophylaxis:
   DVT: sq heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments: Husband
   [**Name (NI) 129**] status: Full code
   Disposition: ICU
   Total time spent: 45 minutes
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM:
   I have seen and examined Mrs [**Known lastname 1309**] and Dr [**Last Name (STitle) 3883**]
s note reflects my
   views. She has needed sedation with Q 2 hr ativan for concerns
   regarding withdrawal from alcohol. There has been no witnessed seizure
   activity but concerns regarding a possible encephalopathy. Her LP
   revealed 2 WBC
s in tube 4. She has been hemodynamically stable and is
   now off insulin infusion with closure of her AG acidosis. We will
   continue to support her with antibiotics, insulin and IV Fluids while
   awaiting results of a repeat echocardiogram to assess her valves. She
   will need an MRI/ MRA and EEG within the next 24 hrs. She may very well
   need CVL access too given problems with peripheral access.
   Time spent: 45 mins
   [**First Name8 (NamePattern2) 1706**] [**Name8 (MD) 1707**], M.D.
   Division of Pulmonary, Critical Care Medicine,
   [**Hospital1 1**], [**Location (un) 3500**], [**Location (un) 168**], [**Numeric Identifier 3003**]
   ------ Protected Section Addendum Entered By:[**Name (NI) 1706**] [**Name8 (MD) 1707**], MD
   on:[**2190-7-5**] 14:03 ------

2190-07-06 05:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2190-7-5**] 03:00 PM
 ULTRASOUND - At [**2190-7-5**] 04:18 PM
   - Neuro: MRI to eval for hypodensities on CT scan. Also get EEG for
   altered mental status.  MRI checklist done
   - Ortho: removed staples and feels knee is very much improved and may
   not need tap/drainage.  Consider CT torso given current clinical
   situation and unsusual native knee infection.
   - ID: Needs knee tap. Continue fluconazole.  Check echo, TEE if
   TTE is negative.  Current abx reasonable empiric endocarditis
   coverage pending repeat head imaging.  D/C abx if negative bcx
   and head imaging not suggestive of emboli.
   - Transitioned to sub-Q insulin after gap closed.
   - Difficult IV access, attempted Sub-clavian line without success, 18 G
   IJ placed as little time for CVL.  Ordered for IR guided PICC in AM [**7-6**]
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2190-7-4**] 11:30 PM
   Fluconazole - [**2190-7-5**] 05:00 PM
   Gentamicin - [**2190-7-5**] 09:00 PM
   Acyclovir - [**2190-7-6**] 05:27 AM
   Vancomycin - [**2190-7-6**] 05:27 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2190-7-5**] 01:09 PM
   Heparin Sodium (Prophylaxis) - [**2190-7-5**] 10:00 PM
   Haloperidol (Haldol) - [**2190-7-5**] 10:30 PM
   Hydralazine - [**2190-7-5**] 11:57 PM
   Lorazepam (Ativan) - [**2190-7-6**] 05:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-6**] 05:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.4
C (99.4
   HR: 94 (76 - 100) bpm
   BP: 192/80(108) {139/67(95) - 204/141(151)} mmHg
   RR: 24 (20 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  3,829 mL
                                                                    393 mL
   PO:
             TF:
   IVF:
                                                                  3,719 mL
                                                                    393 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    420 mL
   Urine:
                                                                  1,505 mL
                                                                    420 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,324 mL
                                                                    -27 mL
   Respiratory support
   SpO2: 95%
   ABG: ///15/
   Physical Examination
   General: Alert to person only, agitated, does not respond to questions
   appropriately, moving all extremities
   HEENT: Sclera anicteric, MM dry, dentition poor, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, ronchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema,
   multiple excorations.  Right knee with staples, incision clean, dry,
   intact without erythema.  Right lateral knee with area of fluctuance,
   erythema, without warmth.
   Rectal/Vaginal: [**Female First Name (un) 444**] present
   Labs / Radiology
   308 K/uL
   11.1 g/dL
   233 mg/dL
   1.0 mg/dL
   15 mEq/L
   4.1 mEq/L
   12 mg/dL
   114 mEq/L
   142 mEq/L
   33.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
   WBC
   13.1
   9.1
   Hct
   33.6
   33.9
   Plt
   362
   308
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   Glucose
   194
   104
   232
   164
   233
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Assessment and Plan
   Assessment and Plan: 47 year old female with a history of type II
   diabetes on insulin, peripheral vascular disease, hepatitis C and
   recent admission for septic right knee on fluconazole for [**Female First Name (un) 444**]
   parapsilosis who presents from home with one day of confusion.
   Altered Mental Status: Unclear etiology.  Differential diagnosis
   includes primary neurologic disorders versus systemic etiologies
   including liver, kidney, pulmonary disease versus medication/toxin
   induced.  Given history of significant alcohol and benzodiazepine use,
   withdrawal is also concerning (valium prescription recently ran out and
   last drink was approximately 24 hours ago).  Initial read of CT scan
   concerning for multiple brain lesions which raises the concern for CNS
   infection either primary or embolic.  In patient with recent candidal
   septic joint, disseminted candidal infection is possible although this
   would be extremely unusual in an immunocompetent host.
   - LP without clear signs of infection, culture pending
   - Narcan, thiamine, folate, multivitamin
   - Ativan 2-4 mg IV Q2H:PRN CIWA > 10
   - Repeat VBG
   - Obtain second read of head CT
   - Neurologic consult
   - Vancomycin, gentamycin, acyclovir, fluconazole for empiric coverage
   of meningitis pending culture results
   - MRI w/ gadolinium when stable (will need sedation and also will need
   to discuss with orthopedics whether staples can be removed or are MRI
   compatible)
   - consider EEG if no improvement
   - Fungal blood cultures
   - HSV PCR from spinal fluid
   - CSF cultures for bacteria, fungus, viral pathogens
   - ID consult in AM
   - Echocardiogram to assess for vegitation
   Elevated Anion Gap: UA positive for ketones.  Osmolar gap is 10 which
   is not suggestive of toxic ingestion.  Lactate is not elevated.
   Toxicology screen negative with exception of benzodiazepines.  Renal
   function within normal limits.  Given positive urine ketones most
   likely etiology is starvation ketosis versus alcoholic ketosis versus
   diabetic ketoacidosis.  DKA is unusual in patients with type II
   diabetes but the details of her diagnosis at age 25 are unknown and she
   missed her insulin dosing today.
   - will check serum acetone
   - insulin drip with normal saline until finger stick < 200 then switch
   to D51/2 NS for hydration
   - finger sticks q 1 hour while on drip
   - q4 electrolytes until anion gap has normalized
   - will transition over to home insulin dosing once anion gap has closed
   Hypertension: Blood presusres grossly elevated on presentation. Concern
   given new onset tachycardiac that this may be related to withdrawal.
   - hydralazine 10 mg IV Q6H for now
   - will hold home lisinopril and HCTZ and metoprolol now as patient is
   NPO
   - ativan for CIWA scale
   Diabetes:  Per notes she is type II but insulin dependent.  Unclear if
   her presentation now is consistent with DKA.
   - holding oral agents
   - insulin drip as above
   - will restart home insulin regimen when anion gap has closed
   Fungal Knee Infection:  Cultures from [**2190-6-16**] grew [**First Name5 (NamePattern1) 444**]
   [**Last Name (NamePattern1) 7123**] for which she has been on fluconazole.  She is followed
   here by our infectious disease service.
   - continue fluconazole
   - ID consult in AM
   - orthopedics consult in AM to evaluate wound
   FEN: NS @ 200 cc/hr switching to D51/2 NS when BS < 200, Q4H
   electrolytes for now, NPO
   Prophylaxis: Subutaneous heparin
   Access: peripherals
   Code:  Full (discussed with health care proxy)
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2190-7-6**] 05:33 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2190-07-06 11:45:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Mental status change, ETOH withdrawal
   24 Hour Events:
   EEG yest preliminarily negative for seizure activity. Knee staples
   removed yest pm. Neuro recommended MRI/A brain which is pending
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2190-7-4**] 11:30 PM
   Fluconazole - [**2190-7-5**] 05:00 PM
   Vancomycin - [**2190-7-6**] 05:27 AM
   Acyclovir - [**2190-7-6**] 05:27 AM
   Gentamicin - [**2190-7-6**] 06:27 AM
   Infusions:
   Other ICU medications:
   Fentanyl - [**2190-7-5**] 01:09 PM
   Haloperidol (Haldol) - [**2190-7-5**] 10:30 PM
   Lorazepam (Ativan) - [**2190-7-6**] 05:00 AM
   Hydralazine - [**2190-7-6**] 06:27 AM
   Heparin Sodium (Prophylaxis) - [**2190-7-6**] 08:43 AM
   Other medications:
   Acyclovir, Gentamicin, Vancomycin, metoprolol, HCTZ, lisinopril, MVI,
   folate, thiamine, fluconazole, RISS, Lantus, Ativan prn
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-6**] 11:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.2
C (99
   HR: 76 (76 - 100) bpm
   BP: 166/78(101) {139/55(88) - 204/137(135)} mmHg
   RR: 25 (20 - 32) insp/min
   SpO2: 94%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 70 kg
             Total In:
                                                                  3,829 mL
                                                                    604 mL
   PO:
             TF:
   IVF:
                                                                  3,719 mL
                                                                    579 mL
   Blood products:
   Total out:
                                                                  1,505 mL
                                                                    850 mL
   Urine:
                                                                  1,505 mL
                                                                    850 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,324 mL
                                                                   -246 mL
   Respiratory support
   SpO2: 94%
   ABG: ///15/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: R knee incision c/d/i w/ lateral region of fluctuance
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Oriented (to): person, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   308 K/uL
   233 mg/dL
   1.0 mg/dL
   15 mEq/L
   4.1 mEq/L
   12 mg/dL
   114 mEq/L
   142 mEq/L
   33.9 %
   9.1 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
   WBC
   13.1
   9.1
   Hct
   33.6
   33.9
   Plt
   362
   308
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   Glucose
   194
   104
   232
   164
   233
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:2.0 mg/dL
   Imaging: [**7-5**] Echo- no veg, nl EF
   [**7-5**] EEG- pending
   [**7-4**] CT Head (OSH)- multiple hypodensities parietal lobe
   Microbiology: [**7-5**] cultures- pending
   [**7-4**] LP- 2wbcs, Gm stain neg, cx pending, HSV PCR pending
   Assessment and Plan
   47 yo female admitted with altered mental status in the setting of
   recent fungal septic arthritis, with likely DKA +/- EtOH withdrawal.
   Altered mental status- ruling out CNS infection, covering broadly at
   the moment. Abnormal CT at OSH which need follow-up. Also treating for
   DKA and EtOH withdrawal
   -EEG final read pending
   -MRI/A brain hopefully today
   -DKA and EtOH mgmt as below
   -on vanco + gent + acyclovir for empiric CNS coverage; plan on dc if cx
   negative x 48hrs (probably tomorrow)
   Fungal septic arthritis- on fluconazole x 6wks total (currently apporx
   3 wks in)
   -has fluctuant area on R lateral aspect of knee which we are following
   clinically at this point
   -Ortho and ID following
   Septic knee- TTE to r/o endocarditis. Ophthal eval if hasnt had one.
   Inform ID and ortho. On fluconazole, [**Month (only) 11**] need TEE if TTE negative for
   vegetations
   EtOH withdrawal- CIWA protocol w/ prn benzodiazepine
   DKA- gap closed, stable control on home regimen + RISS. still holding
   glyburide
   HTN: Rx with beta blocker and iv hydral
   Rest of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds ordered
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   22 Gauge - [**2190-7-6**] 05:33 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2190-07-07 06:47:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2190-7-7**] 03:30 AM
   Peripheral BC X 1
   - IR guided PICC unable to be done today
   - Started on tube feeds per Nutrition recs
   - Surveillance bcx drawn
   - TTE without vegetations. TEE to be done on tmrw (tube feeds held).
   - Pt unable to consent for HIV testing
   - Knee effusion: Ortho recommended no tap. No input from Cards.
   - MRI head suboptimal given agitation despite ativan. Diffuse white
   matter t2/flair hyperintensity, involving the bilateral
   parietal/occipital lobes as well as frontal lobes. Ddx: PRES (esp given
   additional clinical history of hypertension on admit with
   systolics > 220), toxic/metabolic, seizure, and infectious etilogies.
   repeat imaging recommended.
   - Neuro: PRES v. stroke. Will likely recommend repeat MRI while
   sedated/intubated. Keep SBP <200 (baseline 180). Cont current abx. EEG
   unremarkable on prelim read. Seizure precautions.
   - SBP >200 so given lopressor 5mg IV x 1, then hydral 5mg IV x 4 over 8
   hours.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2190-7-4**] 11:30 PM
   Fluconazole - [**2190-7-6**] 03:57 PM
   Vancomycin - [**2190-7-6**] 07:06 PM
   Gentamicin - [**2190-7-7**] 03:55 AM
   Acyclovir - [**2190-7-7**] 06:32 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2190-7-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2190-7-6**] 10:00 PM
   Lorazepam (Ativan) - [**2190-7-7**] 01:05 AM
   Hydralazine - [**2190-7-7**] 04:12 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-7**] 06:44 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37
C (98.6
   HR: 81 (72 - 101) bpm
   BP: 181/145(154) {158/55(88) - 204/145(154)} mmHg
   RR: 26 (16 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 70 kg
   Height: 66 Inch
             Total In:
                                                                  1,820 mL
                                                                    557 mL
   PO:
             TF:
                                                                    279 mL
                                                                     22 mL
   IVF:
                                                                  1,406 mL
                                                                    316 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                    770 mL
   Urine:
                                                                  1,640 mL
                                                                    770 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    180 mL
                                                                   -213 mL
   Respiratory support
   SpO2: 98%
   ABG: ///17/
   Physical Examination
   General: Oriented to person, [**Hospital1 **], year.  Responds to
   questions with slurred speech.  No acute distress.  Does not follow
   commands.
   HEENT: PEERLA, Sclera anicteric, MM dry, dentition poor, oropharynx
   clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema,
   multiple excorations.  Right knee incision clean, dry, intact without
   erythema.  Right lateral knee with area of fluctuance, erythema
   improved, no warmth
   Neurologic: PERRL, EOMI, no facial droop, moving all extremities,
   withdraws to pain symmetrically
   Labs / Radiology
   288 K/uL
   11.1 g/dL
   271 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.3 mEq/L
   13 mg/dL
   108 mEq/L
   137 mEq/L
   32.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
                             [**2190-7-6**]  03:45 PM
                             [**2190-7-7**]  03:26 AM
   WBC
   13.1
   9.1
   9.4
   Hct
   33.6
   33.9
   32.6
   Plt
   362
   308
   288
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   1.0
   Glucose
   194
   104
   232
   164
   233
   275
   271
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.3 mg/dL
   Microbiology:
   Blood cultures [**2190-7-4**], [**2190-7-5**] (mycolytic), [**2190-7-7**]
 negative
   Urine culture [**2190-7-4**]
 negative
   CSF cultures [**2190-7-4**]
 negative to date
   HSV PCR
 pending
   Imaging:
   MRI Head [**2190-7-7**]: Limited study secondary to motion.  T2 and FLAIR axial
   images obtained.  Sag T1 extremely degraded.  There is diffuse white
   matter T2/FLAIR hyperintensity involving the bilateral
   parietal/occipital lobes as well as frontal lobes.  Temporal lobes,
   cerebellum and [**Doctor Last Name 988**] matter including the basal ganglia are relatively
   spared.  Finding is non-specific, with broad differential including
   PRES (esp given additional clinical history of hypertension on admit
   with systolics > 220), toxic/metabolic, seizure, and infections
   etiologies.
   Assessment and Plan
   47 year old female with a history of type II diabetes on insulin,
   peripheral vascular disease, hepatitis C and recent admission for
   septic right knee on fluconazole for [**Female First Name (un) 444**] parapsilosis who presents
   from home with one day of confusion.
   Altered Mental Status:  Continues to have unclear etiology.  Most
   likely source is alcohol withdrawal, although she does not have a
   history of delirium tremens.  Other potential etiologies include
   primary neurologic disorders related to the findings on head CT
   (multiple areas of hypodensities) versus infection.  MRI yesterday was
   extremely limited study but showed diffuse T2 hyperintensities with
   broad differential including PRES, infection, seizure, toxins.  All
   cultures negative to date including CSF and mycolytic cultures.  HSV
   PCR pending from CSF.  Transthoracic echocardiogram negative for
   vegetation.  Plan to intubate patient this AM to obtain repeat MRI and
   TEE.
   - LP without clear signs of infection, culture pending, HSV PCR pending
   - Thiamine, folate, multivitamin
   - Ativan 2-4 mg IV Q2H:PRN CIWA > 10 for alcohol withdrawal
   - EEG performed [**7-5**], no results yet
   - f/u Neurologic recs
   - f/u ID recs
   -d/c vancomycin, gentamycin today
   - cont acyclovir, fluconazole for empiric coverage of meningitis
   pending MRI and HSV PCR
   - follow up blood, urine, mycolytic cultures
   - TTE negative, plan for TEE today
   - repeat MRI today under sedation
   Diabetes:  Per notes she is type II but insulin dependent.  Likely
   presented with DKA now resolved with insulin drip and IVF. Anion gap
   now 12.  Electrolytes stable.  Blood sugars elevated this morning after
   receiving only half dose lantus.
   - holding oral agents
   - will give remainder of home dose lantus this morning.  Will need
   increased doses of lantus this evening after tube feeds are restarted
   - monitor lytes daily and replete prn
   Hypertension: Blood presusres grossly elevated on presentation. Concern
   given new onset tachycardiac that this may be related to alcohol versus
   benzodiazepine withdrawal. No improvement in blood pressures despite
   home antihypertensive regimen yesterday.  Given differential diagnosis
   of findings on head CT/MRI goal is for autoregulation but to keep
   pressures below 200.
   - hydralazine 5-10 mg IV Q4H:PRN for SBP > 200
   - continue home meds lisinopril, metoprolol, hydrochlorothiazide
   - ativan for CIWA scale
   Fungal Knee Infection:  Cultures from [**2190-6-16**] grew [**First Name5 (NamePattern1) 444**]
   [**Last Name (NamePattern1) 7123**] for which she has been on fluconazole.  She is followed
   here by our infectious disease service.  Knee evaluated by both
   orthopedics and infectious disease.
   - continue fluconazole; clarify course
   - will be getting TEE; will need ophtho consult and HIV testing as well
   - orthopedics removed staples feel wound healing well
   - deferring tap for now
   ICU Care
   Nutrition: Holding tube feeds for now
   Glycemic Control:  ISS
   Lines: Plan for IR-guided PICC
   22 Gauge - [**2190-7-6**] 05:33 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2190-07-07 10:09:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: Mental status change, ETOH withdrawal
   24 Hour Events:
   MRI yesterday of poor quality but w/ diffuse white matter changes.( ?
   PRES)
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Micafungin - [**2190-7-4**] 11:30 PM
   Fluconazole - [**2190-7-6**] 03:57 PM
   Gentamicin - [**2190-7-7**] 03:55 AM
   Acyclovir - [**2190-7-7**] 06:32 AM
   Vancomycin - [**2190-7-7**] 08:06 AM
   Infusions:
   Other ICU medications:
   Metoprolol - [**2190-7-6**] 08:00 PM
   Heparin Sodium (Prophylaxis) - [**2190-7-6**] 10:00 PM
   Lorazepam (Ativan) - [**2190-7-7**] 01:05 AM
   Hydralazine - [**2190-7-7**] 04:12 AM
   Other medications:
   Heparin sc, acyclovir, gentamicin, vancomycin, lopressor, MVI, folate,
   thiamine, fluconazole, RISS, lantus, HCTZ, lisinopril
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-7**] 10:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.1
C (97
   HR: 91 (72 - 101) bpm
   BP: 170/72(98) {158/69(95) - 204/145(154)} mmHg
   RR: 22 (16 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75 kg (admission): 70 kg
   Height: 66 Inch
             Total In:
                                                                  1,820 mL
                                                                    972 mL
   PO:
             TF:
                                                                    279 mL
                                                                     22 mL
   IVF:
                                                                  1,406 mL
                                                                    581 mL
   Blood products:
   Total out:
                                                                  1,640 mL
                                                                  1,010 mL
   Urine:
                                                                  1,640 mL
                                                                  1,010 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    180 mL
                                                                    -38 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 100%
   ABG: ///17/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Musculoskeletal: lateral R knee fluctuance w/ decreaed overlying
   erythema
   Skin:  Not assessed
   Neurologic: Responds to: Verbal stimuli, Oriented (to): name place and
   time, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   11.1 g/dL
   288 K/uL
   271 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.3 mEq/L
   13 mg/dL
   108 mEq/L
   137 mEq/L
   32.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
                             [**2190-7-6**]  03:45 PM
                             [**2190-7-7**]  03:26 AM
   WBC
   13.1
   9.1
   9.4
   Hct
   33.6
   33.9
   32.6
   Plt
   362
   308
   288
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   1.0
   Glucose
   194
   104
   232
   164
   233
   275
   271
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.5 mg/dL, PO4:2.3 mg/dL
   Imaging: MRI brain ([**7-6**])- poor quality, diffuse white matter changes
   Microbiology: All cx reviewed and negative
   Assessment and Plan
   47 yo female admitted with altered mental status in the setting of
   recent fungal septic arthritis, with likely DKA +/- EtOH withdrawal.
   Altered mental status- ruling out CNS infection, covering broadly at
   the moment. Treating for DKA and EtOH withdrawal. MRI yest w/ diffuse
   changes but suboptimal imaging
   -plan on elective intubation today for repeat MRI/A to better assess
   -final EEG read still pending
   -DKA and EtOH mgmt as below
   -on vanco + gent + acyclovir for empiric CNS coverage; plan on dc vanco
   and gentamicin today given negative culture data if repeat MRI/A is not
   worrisome for features of infection
   Fungal septic arthritis- on fluconazole x 6wks total (currently apporx
   3 wks in)
   -has fluctuant area on R lateral aspect of knee which we are following
   clinically at this point, slightly improved today
   -Ortho and ID following; will need them to discuss re: aspiration of
   fluid collection
   -will need eventual Ophthal eval if hasnt had one.
   -will also need TEE to better assess for vegetations given Candidal
   knee infxn
   -will need HIV at some point
   EtOH withdrawal- CIWA protocol w/ prn benzodiazepine
   DKA- gap closed, stable control on home regimen + RISS. still holding
   glyburide
   HTN: Rx with beta blocker, HCTZ and lisinopril, prn hydralazine
   Rest of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds held for procedure
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   22 Gauge - [**2190-7-6**] 05:33 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes

2190-07-08 06:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2190-7-7**] 11:00 AM
 TRANS ESOPHAGEAL ECHO - At [**2190-7-7**] 12:36 PM
 PICC LINE - START [**2190-7-7**] 05:22 PM
    - intubated to receive MRI, PICC and TEE
   - TEE performed without evidence of vegitation
   - MRI performed, results pending
   - seen by neurology who feel that findings on previous MRI scan most
   consistent with PRES, recommend tighter control of [**Year (4 digits) **] pressure
   - vancomycin and genamicin were discontinued
   - switched over to pressure support with plans to extubate this AM
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2190-7-6**] 03:57 PM
   Gentamicin - [**2190-7-7**] 03:55 AM
   Vancomycin - [**2190-7-7**] 08:06 AM
   Acyclovir - [**2190-7-7**] 10:00 PM
   Infusions:
   Other ICU medications:
   Famotidine (Pepcid) - [**2190-7-7**] 11:30 AM
   Propofol - [**2190-7-7**] 04:30 PM
   Hydralazine - [**2190-7-7**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2190-7-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-8**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.3
C (97.4
   HR: 75 (63 - 111) bpm
   BP: 180/72(101) {131/67(85) - 208/108(116)} mmHg
   RR: 21 (13 - 25) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 76.1 kg (admission): 76 kg
   Height: 66 Inch
             Total In:
                                                                  1,758 mL
                                                                    183 mL
   PO:
             TF:
                                                                     22 mL
   IVF:
                                                                  1,287 mL
                                                                    183 mL
   [**Year (4 digits) 229**] products:
   Total out:
                                                                  1,655 mL
                                                                    460 mL
   Urine:
                                                                  1,655 mL
                                                                    460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    103 mL
                                                                   -277 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 395 (354 - 395) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 81
   PIP: 15 cmH2O
   Plateau: 15 cmH2O
   SpO2: 98%
   ABG: ///17/
   Ve: 7.9 L/min
   Physical Examination
   General: Intubated, sedated, no acute distress
   HEENT: PEERLA, Sclera anicteric, MMM, dentition poor, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining clear yellow urine
   Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema,
   multiple excorations.  Right knee incision clean, dry, intact without
   erythema.  Right lateral knee with area of fluctuance, erythema
   improved, no warmth
   Neurologic: PERRL, EOMI, no facial droop, moves all extremities,
   withdraws to pain symmetrically
   Labs / Radiology
   288 K/uL
   11.1 g/dL
   222 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.9 mEq/L
   16 mg/dL
   106 mEq/L
   135 mEq/L
   32.6 %
   9.4 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
                             [**2190-7-6**]  03:45 PM
                             [**2190-7-7**]  03:26 AM
                             [**2190-7-8**]  03:17 AM
   WBC
   13.1
   9.1
   9.4
   Hct
   33.6
   33.9
   32.6
   Plt
   362
   308
   288
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   1.0
   1.0
   Glucose
   194
   104
   232
   164
   233
   275
   271
   222
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Imaging:
   MRI brain pending
   Microbiology:
   HSV PCR pending
   [**Year (4 digits) 229**], urine, CSF cultures from admission no growth to date
   Assessment and Plan
 DIABETES MELLITUS (DM), TYPE II
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Posterior Reversible Encephalopathy Syndrome
 ARTHRITIS, SEPTIC (JOINT INFECTION, SEPTIC JOINT, INCLUDING KNEE,
   HIP, ANKLE, ETC.)
 DIABETIC KETOACIDOSIS (DKA)
 HYPERTENSION, BENIGN
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   47 year old female with a history of type II diabetes on insulin,
   peripheral vascular disease, hepatitis C and recent admission for
   septic right knee on fluconazole for [**Female First Name (un) 444**] parapsilosis who presents
   from home with one day of confusion.
   Altered Mental Status:  Continues to have unclear etiology.  Most
   likely source is alcohol withdrawal with a component of PRES. Other
   potential etiologies include primary neurologic disorders related to
   the findings on head CT (multiple areas of hypodensities) versus
   infection.  MRI [**2190-7-7**] extremely limited but showed diffuse T2
   hyperintensities with broad differential including PRES, infection,
   seizure, toxins.  All cultures negative to date including CSF and
   mycolytic cultures.  HSV PCR pending from CSF.  Transthoracic
   echocardiogram negative for vegetation.  She was intubated [**2190-7-8**] and
   received TEE which was without vegitation.  Repeat MRI also performed,
   results pending.
   - LP without clear signs of infection, culture pending, HSV PCR pending
   - Thiamine, folate, multivitamin
   - Ativan 2-4 mg IV Q2H:PRN CIWA > 10 for alcohol withdrawal (requiring
   significanlty less over past 24 hours)
   - EEG performed [**7-5**], no seizure activity.
   - f/u Neurologic recs
   - f/u ID recs
   - cont acyclovir, fluconazole for empiric coverage of meningitis
   pending MRI and HSV PCR
   - follow up [**Month/Day (4) **], urine, mycolytic cultures
   - f/u MRI read
   - will plan to extubate today
   - consider call out to floor in PM if stable
   Diabetes:  Per notes she is type II but insulin dependent.  Likely
   presented with DKA now resolved with insulin drip and IVF. Anion gap
   now 12.  Electrolytes stable.
   - holding oral agents
   - continue lantus with regular insulin sliding scale
   - monitor lytes daily and replete prn
   Hypertension: [**Month/Day (4) 229**] presusres grossly elevated on presentation. Concern
   given new onset tachycardiac that this may be related to alcohol versus
   benzodiazepine withdrawal. No improvement in [**Month/Day (4) **] pressures despite
   home antihypertensive regimen yesterday although per husband baseline
   [**Name2 (NI) **] pressures range from 150s to 180s.
   - hydralazine 5-10 mg IV Q4H:PRN for SBP > 200
   - continue home meds lisinopril, metoprolol, hydrochlorothiazide
   - will increase metoprolol to 50 mg [**Hospital1 **]
   - ativan for CIWA scale
   Fungal Knee Infection:  Cultures from [**2190-6-16**] grew [**First Name5 (NamePattern1) 444**]
   [**Last Name (NamePattern1) 7123**] for which she has been on fluconazole.  She is followed
   here by our infectious disease service.  Knee evaluated by both
   orthopedics and infectious disease.
   - continue fluconazole; clarify course
   - TEE negative; will need ophtho consult and HIV testing as well
   - orthopedics removed staples feel wound healing well
   - deferring tap for now
   ICU Care
   Nutrition: Holding tube feeds for now
   Glycemic Control:  ISS
   Lines: Plan for IR-guided PICC
   22 Gauge - [**2190-7-6**] 05:33 AM
   Prophylaxis:
   DVT: SQ heparin
   Stress ulcer: H2 blocker
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2190-07-08 10:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ETOH withdrawal
   24 Hour Events:
   intubated for procedures yest. PICC placed. TEE done (negative for
   vegetations). repeat MRI brain done- pending. Review of imaging per
   Neuro suggest more of a PRES picture.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Fluconazole - [**2190-7-6**] 03:57 PM
   Gentamicin - [**2190-7-7**] 03:55 AM
   Vancomycin - [**2190-7-7**] 08:06 AM
   Acyclovir - [**2190-7-8**] 06:33 AM
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2190-7-7**] 11:30 AM
   Propofol - [**2190-7-7**] 04:30 PM
   Hydralazine - [**2190-7-7**] 08:30 PM
   Heparin Sodium (Prophylaxis) - [**2190-7-8**] 08:13 AM
   Other medications:
   acyclovir, lopressor, MVI, folate, thiamine, fluconazole, RISS, HCTZ,
   lisinopril, famotidine,
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-8**] 10:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.3
C (99.1
   Tcurrent: 37.3
C (99.1
   HR: 80 (63 - 111) bpm
   BP: 179/68(97) {131/63(83) - 208/108(116)} mmHg
   RR: 27 (13 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 76 kg
   Height: 66 Inch
             Total In:
                                                                  1,759 mL
                                                                    524 mL
   PO:
             TF:
                                                                     22 mL
   IVF:
                                                                  1,287 mL
                                                                    374 mL
   Blood products:
   Total out:
                                                                  1,655 mL
                                                                    830 mL
   Urine:
                                                                  1,655 mL
                                                                    830 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    104 mL
                                                                   -306 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 409 (354 - 409) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 81
   PIP: 11 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: ///17/
   Ve: 9.9 L/min
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Absent, Left: Absent
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   10.3 g/dL
   295 K/uL
   222 mg/dL
   1.0 mg/dL
   17 mEq/L
   3.9 mEq/L
   16 mg/dL
   106 mEq/L
   135 mEq/L
   31.1 %
   10.1 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
                             [**2190-7-6**]  03:45 PM
                             [**2190-7-7**]  03:26 AM
                             [**2190-7-8**]  03:17 AM
   WBC
   13.1
   9.1
   9.4
   10.1
   Hct
   33.6
   33.9
   32.6
   31.1
   Plt
   362
   308
   288
   295
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   1.0
   1.0
   Glucose
   194
   104
   232
   164
   233
   275
   271
   222
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:8.6 mg/dL, Mg++:2.4 mg/dL, PO4:4.2 mg/dL
   Imaging: [**7-7**] MRI brain- pending
   [**7-7**] TEE- neg for vegetations
   [**7-7**] CXR- PICC in place, clear lung fields
   Microbiology: Micro all neg or pending (HSV PCR)
   Assessment and Plan
   47 yo female admitted with altered mental status in the setting of
   recent fungal septic arthritis as well as DKA +/- EtOH withdrawal. MRI
   brain suggests PRES.
    Altered mental status- ruling out CNS infection, covering broadly at
   the moment. Treating for DKA and EtOH withdrawal. MRI 2d ago suboptimal
   but suggesting PRES, repeat imaging pending
   -repeat MRI/A pending
   -EEG without seizure activity
   -DKA and EtOH mgmt as below
   -tighter BP control for poss PRES, see below
   -on acyclovir for empiric CNS HSV coverage; will dc if PCR negative
   -plan on extubation today
   Fungal septic arthritis- on fluconazole x 6wks total (currently approx
   3 wks in)
   -has fluctuant area on R lateral aspect of knee which we are following
   clinically at this point, slightly improved today
   -Ortho and ID following; will need them to discuss re: aspiration of
   fluid collection
   -will need eventual Ophthal eval if hasnt had one.
   -TEE without vegetations
   -will need HIV at some point
   EtOH withdrawal- CIWA protocol w/ prn benzodiazepine
   DKA- gap closed, stable control on home regimen + RISS. still holding
   glyburide
   HTN: Rx with beta blocker, HCTZ and lisinopril, prn hydralazine
   -titrate up for tighter control given poss PRES as above
   Rest of plan as per housestaff note.
   ICU Care
   Nutrition:
   Comments: tube feeds held pending extubation
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   PICC Line - [**2190-7-7**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2190-07-09 06:23:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - STOP [**2190-7-8**] 11:39 AM
 BLOOD CULTURED - At [**2190-7-8**] 09:00 PM
   BC x 2
 URINE CULTURE - At [**2190-7-8**] 09:00 PM
 FEVER - 101.7
F - [**2190-7-8**] 08:00 PM
   - Extubated
   - MRI c/w PRES
   - D/c'ed Vanc/gent and HSV PCR neg so d/c'ed acyclovir
   - Neuro: Agree with d/c abx as above.  BP control with target SBP
   150-160. Monitor for seizures.
   - Ortho: no recs
   - ID: D/c all abx but continue fluconazole
   - continued to be hypertensive to 180s/70s.  Started scheduled Hydral
   and increased metoprolol to 50 mg Q6.  Will still likely need clonidine
   patch.
   - Fever to 101.7 with tachycardia to 120-130s in evening.  Pan cultured
   and UA with WBC.  Has had ESBL E. Coli in urine in past so started on
   Meropenem.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Gentamicin - [**2190-7-7**] 03:55 AM
   Vancomycin - [**2190-7-7**] 08:06 AM
   Acyclovir - [**2190-7-8**] 02:15 PM
   Fluconazole - [**2190-7-8**] 04:03 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-7-8**] 10:00 PM
   Famotidine (Pepcid) - [**2190-7-9**] 12:00 AM
   Hydralazine - [**2190-7-9**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-9**] 06:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 36.8
C (98.2
   HR: 96 (73 - 120) bpm
   BP: 192/72(104) {162/65(92) - 206/114(114)} mmHg
   RR: 25 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 76 kg
   Height: 66 Inch
             Total In:
                                                                  1,475 mL
                                                                    446 mL
   PO:
             TF:
                                                                    164 mL
                                                                    190 mL
   IVF:
                                                                    761 mL
                                                                     96 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                    715 mL
   Urine:
                                                                  2,025 mL
                                                                    715 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -550 mL
                                                                   -269 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 409 (409 - 409) mL
   PS : 5 cmH2O
   RR (Spontaneous): 27
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: ///18/
   Ve: 9.9 L/min
   Physical Examination
   General: Not alert, no acute distress
   HEENT: PEERLA, Sclera anicteric, MMM, dentition poor, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining cloudy yellow urine
   Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema,
   multiple excorations.  Right knee incision clean, dry, intact without
   erythema.  Right lateral knee with area of fluctuance, erythema
   improved, no warmth
   Neurologic: PERRL, EOMI, no facial droop, moves all extremities,
   withdraws to pain symmetrically
   Labs / Radiology
   343 K/uL
   10.6 g/dL
   228 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.1 mEq/L
   16 mg/dL
   108 mEq/L
   139 mEq/L
   31.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
                             [**2190-7-6**]  03:45 PM
                             [**2190-7-7**]  03:26 AM
                             [**2190-7-8**]  03:17 AM
                             [**2190-7-9**]  04:13 AM
   WBC
   13.1
   9.1
   9.4
   10.1
   11.7
   Hct
   33.6
   33.9
   32.6
   31.1
   31.3
   Plt
   362
   308
   288
   295
   343
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   1.0
   1.0
   1.1
   Glucose
   194
   104
   232
   164
   233
   275
   271
   222
   228
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Color
   Yellow
   Appear
   Clear
   SpecGr
   1.010
   pH
   7.0
   Urobil
   Neg
   Bili
   Neg
   Leuk
   Tr
   Bld
   Neg
   Nitr
   Neg
   Prot
   30
   Glu
   Neg
   Ket
   Neg
   RBC
   0
   WBC
   21-50
   Bact
   None
   Yeast
   None
   Epi
   [**3-4**]
   Microbiology:
   Blood and urine cultures from [**2190-7-8**]
 pending
   Imaging:
   MRI Brain:
   Extensive white matter abnormalities involving the posterior
   distribution as well as extending to involve the frontal and parietal
   lobes in
   a watershed distribution. Given the conciliation of these findings,
   these are
   again most concerning for posterior reversible encephalopathy syndrome.
   Again
   differential considerations include a toxic or metabolic process.
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 DIABETES MELLITUS (DM), TYPE II
 [**Last Name **] PROBLEM - ENTER DESCRIPTION IN COMMENTS
   Posterior Reversible Encephalopathy Syndrome
 ARTHRITIS, SEPTIC (JOINT INFECTION, SEPTIC JOINT, INCLUDING KNEE,
   HIP, ANKLE, ETC.)
 URINARY TRACT INFECTION (UTI)
 HYPERTENSION, BENIGN
 ALCOHOL WITHDRAWAL (INCLUDING DELIRIUM TREMENS, DTS, SEIZURES)
   47 year old female with a history of type II diabetes on insulin,
   peripheral vascular disease, hepatitis C and recent admission for
   septic right knee on fluconazole for [**Female First Name (un) 444**] parapsilosis who presents
   from home with one day of confusion.
   Altered Mental Status:  Continues to have unclear etiology.  Most
   likely source is alcohol withdrawal with a component of PRES. Repeat
   MRI most consistent with PRES.  All cultures negative to date including
   CSF and mycolytic cultures and HSV PCR.  TTE and TEE without
   vegetation.  Mental status slowly improving.
   - d/c acyclovir as HSV PCR negative
   - cultures from admission negative to date
   - aggressively manage blood pressure with target pressures at her
   baseline of 150-160
   - will add labetolol for BP control today
   - will change to valium Q6H CIWA today in anticipation of floor
   transfer
   - consider call out to floor this evening if blood pressures stable
   Fevers:  Spiked a fever to 101 last night.  Most likely etiology is
   urinary tract infection as patient had foley catheter and positive UA.
   She has a history of ESBL so she was started on meropenem. Blood
   cultures and urine cultures pending.
   - meropenem day [**2-6**] for urinary tract infection pending cultures
   Diabetes:  Per notes she is type II but insulin dependent.  Likely
   presented with DKA now resolved with insulin drip and IVF. Anion gap
   now 13.  Electrolytes stable.  Lantus increased to 25 yesterday with
   increase in her sliding scale.
   - holding oral agents
   - continue lantus with regular insulin sliding scale
   - monitor lytes daily and replete prn
   Hypertension: Blood pressures grossly elevated on presentation likely
   from alcohol withdrawal and essential hypertension.  Per her husband
   her baseline blood pressures range in the 150s-160s.
   - hydralazine 20 IV Q6H
   - will add labetolol 400 mg TID and will titrate up today
   - discontinue metoprolol
   - lisinopril 40 mg daily
   - continue hydrochlorothiazide
   - PO valium for CIWA scale
   Fungal Knee Infection:  Cultures from [**2190-6-16**] grew [**First Name5 (NamePattern1) 444**]
   [**Last Name (NamePattern1) 7123**] for which she has been on fluconazole.  She is followed
   here by our infectious disease service.  Knee evaluated by both
   orthopedics and infectious disease.
   - continue fluconazole, plan for 6+ weeks of therapy to be readdressed
   by ID as outpatient
   - TEE negative; will need ophtho consult and HIV testing as well
   - orthopedics removed staples feel wound healing well
   - deferring tap for now
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2190-7-8**] 03:49 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2190-7-7**] 05:22 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2190-07-09 09:30:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
     ETOH withdrawal, Posterior Reversible encephalopathy syndrome
   24 Hour Events:
   febrile last night to 101.7- pan cultured. started on meropenem for
   dirty UA and prior ESBL from urine. Escalating BP meds for refractory
   HTN
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Gentamicin - [**2190-7-7**] 03:55 AM
   Vancomycin - [**2190-7-7**] 08:06 AM
   Acyclovir - [**2190-7-8**] 02:15 PM
   Fluconazole - [**2190-7-8**] 04:03 PM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-7-8**] 10:00 PM
   Famotidine (Pepcid) - [**2190-7-9**] 12:00 AM
   Hydralazine - [**2190-7-9**] 06:00 AM
   Other medications:
   thimaine, folate, MVI, fluconazole, RISS, HCTZ 25 qd, lisinopril 40 qd,
   labetalol 400 tid, hydralazine 20 q6, meropenem
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-9**] 09:30 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.7
C (101.7
   Tcurrent: 37.1
C (98.8
   HR: 89 (77 - 120) bpm
   BP: 182/83(110) {162/65(92) - 206/114(119)} mmHg
   RR: 29 (18 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 76 kg
   Height: 66 Inch
             Total In:
                                                                  1,475 mL
                                                                    740 mL
   PO:
             TF:
                                                                    164 mL
                                                                    277 mL
   IVF:
                                                                    761 mL
                                                                    142 mL
   Blood products:
   Total out:
                                                                  2,025 mL
                                                                  1,195 mL
   Urine:
                                                                  2,025 mL
                                                                  1,195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -550 mL
                                                                   -455 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: ///18/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Crackles : R base)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.6 g/dL
   343 K/uL
   228 mg/dL
   1.1 mg/dL
   18 mEq/L
   3.1 mEq/L
   16 mg/dL
   108 mEq/L
   139 mEq/L
   31.3 %
   11.7 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
                             [**2190-7-6**]  03:45 PM
                             [**2190-7-7**]  03:26 AM
                             [**2190-7-8**]  03:17 AM
                             [**2190-7-9**]  04:13 AM
   WBC
   13.1
   9.1
   9.4
   10.1
   11.7
   Hct
   33.6
   33.9
   32.6
   31.1
   31.3
   Plt
   362
   308
   288
   295
   343
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   1.0
   1.0
   1.1
   Glucose
   194
   104
   232
   164
   233
   275
   271
   222
   228
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.0 mg/dL, Mg++:1.9 mg/dL, PO4:3.2 mg/dL
   Fluid analysis / Other labs: [**7-8**] Ua- trace positive
   Imaging: [**7-9**] CXR- pending
   [**7-8**] MRI brain- c/w PRES
   Microbiology: [**7-8**] blood and urine cx- pending
   Assessment and Plan
   47 yo female admitted with altered mental status in the setting of
   recent fungal septic arthritis as well as DKA +/- EtOH withdrawal. MRI
   brain suggests PRES. Fever overnight w/ new R basilar infiltrate
   Possible aspiration vs nosocomial pneumonia- febrile o/n w/ new R
   basilar crackles
   -CXR this AM
   -broaden ABX coverage to vanco + meropenem
   Altered mental status- treated for DKA and EtOH withdrawal. MRI
   suggests PRES
   -EEG without seizure activity
   -DKA and EtOH mgmt as below
   -tighter BP control for poss PRES, see below
   -dc'd acyclovir for neg HSV PCR
   HTN: Rx with beta blocker, HCTZ and lisinopril, scheduled hydralazine
   -titrate up for tighter control given poss PRES as above
   Fungal septic arthritis- on fluconazole x at least 6wks total
   (currently approx 3 wks in)
   -has fluctuant area on R lateral aspect of knee which we are following
   clinically at this point, slightly improved today
   -will need eventual Ophthal eval if hasnt had one.
   -TEE without vegetations
   -will need HIV at some point
   DKA- gap closed, stable control on home regimen + RISS. still holding
   glyburide
   Rest of plan as per housestaff note.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2190-7-8**] 03:49 PM 30 mL/hour
   Glycemic Control:  Insulin infusion
   Lines:
   PICC Line - [**2190-7-7**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP: HOB elevation
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2190-07-10 06:23:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Vanco added for broadened coverage.
   - ID: Rec knee tap; will speak to ortho. Cont fluc. If Ucx neg and no
   other GNR, d/c meropenem.
   - Spiked fever so pancultured again
   - Neuro: No new recs.
   - Changed metoprolol to labetalol for BP goal 150-160, hydralazine
   uptitrated to 30mg q6h and switched to po
   - CIWA scale discontinued
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2190-7-8**] 02:15 PM
   Fluconazole - [**2190-7-9**] 06:00 PM
   Vancomycin - [**2190-7-10**] 12:00 AM
   Meropenem - [**2190-7-10**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-7-9**] 10:00 PM
   Famotidine (Pepcid) - [**2190-7-10**] 12:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-10**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.3
C (99.1
   HR: 82 (82 - 102) bpm
   BP: 181/71(100) {129/56(74) - 205/91(119)} mmHg
   RR: 29 (21 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 76 kg
   Height: 66 Inch
             Total In:
                                                                  2,617 mL
                                                                  1,059 mL
   PO:
             TF:
                                                                    997 mL
                                                                    316 mL
   IVF:
                                                                    690 mL
                                                                    513 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    445 mL
   Urine:
                                                                  1,665 mL
                                                                    445 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    952 mL
                                                                    614 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   General: Not alert, oriented x 3, more responsive than yestererday, no
   acute distress
   HEENT: PEERLA, Sclera anicteric, MMM, dentition poor, oropharynx clear
   Neck: supple, JVP not elevated, no LAD
   Lungs: Clear to auscultation bilaterally, no wheezes, rales, rhonchi
   CV: Regular rate and rhythm, normal S1 + S2, no murmurs, rubs, gallops
   Abdomen:  soft, non-tender, non-distended, bowel sounds present, no
   rebound tenderness or guarding, no organomegaly
   GU: foley draining cloudy yellow urine
   Ext: warm, well perfused, 1+ pulses, no clubbing, cyanosis or edema,
   multiple excorations.  Right knee incision clean, dry, intact without
   erythema.  Right lateral knee with area of fluctuance, erythema
   improved, no warmth
   Neurologic: PERRL, EOMI, no facial droop, moves all extremities,
   withdraws to pain symmetrically
   Labs / Radiology
   302 K/uL
   10.1 g/dL
   325 mg/dL
   1.3 mg/dL
   19 mEq/L
   3.4 mEq/L
   24 mg/dL
   108 mEq/L
   137 mEq/L
   30.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
                             [**2190-7-6**]  03:45 PM
                             [**2190-7-7**]  03:26 AM
                             [**2190-7-8**]  03:17 AM
                             [**2190-7-9**]  04:13 AM
                             [**2190-7-10**]  04:06 AM
   WBC
   13.1
   9.1
   9.4
   10.1
   11.7
   10.4
   Hct
   33.6
   33.9
   32.6
   31.1
   31.3
   30.4
   Plt
   362
   308
   288
   295
   343
   302
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   1.0
   1.0
   1.1
   1.3
   Glucose
   194
   104
   232
   164
   233
   275
   271
   222
   228
   325
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Microbiology:
   Blood and urine cultures from [**2190-7-8**]
 no growth to date
   Imaging:
   As compared to the previous radiograph, a PICC line has been
   inserted over the right upper extremity. The PICC line terminates in
   the
   superior vena cava and could be advanced by 3-4 cm. In the interval,
   the
   patient has been extubated. The nasogastric tube, however, is in
   unchanged
   position. There is no evidence of interval recurrence of focal
   parenchymal
   opacity suggestive of pneumonia. No pleural effusions. Normal size of
   the
   cardiac silhouette without evidence of overhydration.
   Assessment and Plan
   47 year old female with a history of type II diabetes on insulin,
   peripheral vascular disease, hepatitis C and recent admission for
   septic right knee on fluconazole for [**Female First Name (un) 444**] parapsilosis who presents
   from home with one day of confusion.
   Altered Mental Status:  Likely initially in setting of alcohol
   withdrawal, now past time course. MRI suggestive of component of PRES.
   All cultures negative to date including CSF and mycolytic cultures and
   HSV PCR.  TTE and TEE without vegetation.  [**Month (only) 11**] have component from
   pain. Mental status slowly improving.
   - empiric abx for meningitis discontinued
   - cultures from admission negative to date
   - aggressively manage blood pressure with target pressures at her
   baseline of 150-160
   - continue labetolol 400 mg TID, hydralazine 30 mg PO Q6H,
   hydrochlorothiazie 25 mg daily and lisinopril 40 mg daily
   - lidoderm patch for pain
   Fevers:  Spiked a fever to 101 last night. Currently treating fungal
   knee infection. [**Month (only) 11**] have aspiration pneumonia in setting of AMS
   although CXR yesterday looked clear.  UA trace positive but culture
   negative to date.  Currently on vancomycin and meropenem given history
   of ESBL in her urine.
   - continue vancomycin and meropenem pending culture date
   - follow blood, urine and sputum samples
   - Cont fluconazole
   - will need to readdress joint aspiration
   Fungal Knee Infection:  Cultures from [**2190-6-16**] grew [**First Name5 (NamePattern1) 444**]
   [**Last Name (NamePattern1) 7123**] for which she has been on fluconazole.  She is followed
   here by our infectious disease service.  Knee evaluated by both
   orthopedics and infectious disease.
   - continue fluconazole, plan for 6+ weeks of therapy to be readdressed
   by ID as outpatient
   - TEE negative; will need ophtho consult and HIV testing as well
   - orthopedics removed staples feel wound healing well
   - will discuss joint aspiration with orthopedics, likely will defer
   given improved appearance of wound
   - lidoderm patch for right knee
   Hypertension: Blood pressures grossly elevated on presentation likely
   initially from alcohol withdrawal and essential hypertension. Per her
   husband her baseline blood pressures range in the 150s-160s.  Now
   improved to close to target with PO hydralazine, labetolol,
   hydrochlorithiazide and lisinopril
   - continue hydralazine 30 mg PO Q6H, labetolol 400 mg TID,
   hydrochlorothiazide 25 mg daily and lisinopril 40 mg daily
   - will titrate up labetolol today as tolerated today
   Diabetes:  Per notes she is type II but insulin dependent.  Likely
   presented with DKA now resolved with insulin drip and IVF. Anion gap
   now 13.  Electrolytes stable.  Blood sugars persistently in the 300s
   overnight.
   - holding oral agents
   - increase lantus to 30 U daily with regular insulin sliding scale
   - monitor lytes daily and replete prn
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2190-7-9**] 08:25 PM 50 mL/hour
   Glycemic Control:  lantus with regular insulin sliding scale
   Lines:  PICC line
   PICC Line - [**2190-7-7**] 05:22 PM
   Prophylaxis:
   DVT: SC heparin
   Stress ulcer: famotidine
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2190-07-10 09:53:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI: ETOH withdrawal, PRES ( posterior reversible encephalopathy
   syndrome)
   24 Hour Events:
   no events overnight. anti HTNsives titrated up.
   Allergies:
   Percocet (Oral) (Oxycodone Hcl/Acetaminophen)
   Nausea/Vomiting
   Cefazolin
   Hives; itching
   Vicodin (Oral) (Hydrocodone Bit/Acetaminophen)
   Nausea/Vomiting
   Oxycodone
   Nausea/Vomiting
   Last dose of Antibiotics:
   Acyclovir - [**2190-7-8**] 02:15 PM
   Fluconazole - [**2190-7-9**] 06:00 PM
   Vancomycin - [**2190-7-10**] 12:00 AM
   Meropenem - [**2190-7-10**] 06:00 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2190-7-9**] 10:00 PM
   Famotidine (Pepcid) - [**2190-7-10**] 08:15 AM
   Other medications:
   thiamine, folate, fluconazole, RISS, Lantus, MVI, HCTZ, lisinopril,
   famotidine, labetalol, lidocaine patch, vanco 1g q12, hydralazine,
   meropenem
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2190-7-10**] 09:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 35.9
C (96.7
   HR: 77 (77 - 102) bpm
   BP: 164/69(90) {129/54(74) - 185/80(108)} mmHg
   RR: 20 (20 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 75.6 kg (admission): 76 kg
   Height: 66 Inch
             Total In:
                                                                  2,617 mL
                                                                  1,949 mL
   PO:
             TF:
                                                                    997 mL
                                                                    482 mL
   IVF:
                                                                    690 mL
                                                                  1,146 mL
   Blood products:
   Total out:
                                                                  1,665 mL
                                                                    615 mL
   Urine:
                                                                  1,665 mL
                                                                    615 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    952 mL
                                                                  1,334 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: Trace, Left: Trace, R lateral knee fluctuance w/
   some overlying erythema, this is stable
   Skin:  Not assessed
   Neurologic: Follows simple commands, Responds to: Not assessed,
   Oriented (to): , Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   302 K/uL
   325 mg/dL
   1.3 mg/dL
   19 mEq/L
   3.4 mEq/L
   24 mg/dL
   108 mEq/L
   137 mEq/L
   30.4 %
   10.4 K/uL
        [image002.jpg]
                             [**2190-7-5**]  04:35 AM
                             [**2190-7-5**]  09:17 AM
                             [**2190-7-5**]  02:14 PM
                             [**2190-7-5**]  08:39 PM
                             [**2190-7-6**]  03:11 AM
                             [**2190-7-6**]  03:45 PM
                             [**2190-7-7**]  03:26 AM
                             [**2190-7-8**]  03:17 AM
                             [**2190-7-9**]  04:13 AM
                             [**2190-7-10**]  04:06 AM
   WBC
   13.1
   9.1
   9.4
   10.1
   11.7
   10.4
   Hct
   33.6
   33.9
   32.6
   31.1
   31.3
   30.4
   Plt
   362
   308
   288
   295
   343
   302
   Cr
   1.0
   1.1
   1.0
   1.0
   1.0
   1.0
   1.0
   1.0
   1.1
   1.3
   Glucose
   194
   104
   232
   164
   233
   275
   271
   222
   228
   325
   Other labs: PT / PTT / INR:12.9/22.5/1.1, Lactic Acid:0.9 mmol/L,
   Ca++:9.7 mg/dL, Mg++:1.8 mg/dL, PO4:3.2 mg/dL
   Imaging: [**7-9**] CXR- no clear infiltrate
   Microbiology: [**7-8**] blood and urine- neg to date
   Assessment and Plan
   47 yo female admitted with altered mental status in the setting of
   recent fungal septic arthritis as well as DKA +/- EtOH withdrawal. MRI
   brain suggests PRES.
   Possible aspiration vs nosocomial pneumonia- febrile on [**7-8**] night but
   w/ neg cultures
   -CXR yest without infiltrates despite R basilar crackles; afebrile w/
   broadened ABX (vanco + meropenem in addition to fluconazole below)
   -per ID will stop vanco + meropenem
   Altered mental status- treated for DKA and EtOH withdrawal. MRI
   suggests PRES
   -EEG without seizure activity
   -DKA and EtOH mgmt as below
   -tighter BP control for poss PRES, see below
   -dc'd acyclovir for neg HSV PCR
   HTN: Rx with beta blocker, HCTZ and lisinopril, scheduled hydralazine
   -titrate up for tighter control given poss PRES as above
   Fungal septic arthritis- on fluconazole x at least 6wks total
   (currently approx 3 wks in)
   -has fluctuant area on R lateral aspect of knee which we are following
   clinically at this point, slightly improved today
   -Id svce has wanted R knee fluctuance tapped, which Ortho team has not
   wanted to do so. Have asked ID team to discuss w/ Ortho team directly
   -will need eventual Ophthal eval if hasnt had one.
   -TEE without vegetations
   -will need HIV at some point
   DKA- gap closed, stable control on home regimen + RISS. still holding
   glyburide
   Rest of plan as per housestaff note.
   ICU Care
   Nutrition:
   Boost Glucose Control (Full) - [**2190-7-10**] 06:17 AM 50 mL/hour
   Comments: on tube feeds till swallow cleared
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   PICC Line - [**2190-7-7**] 05:22 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: H2 blocker
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor
   Total time spent: 30 minutes